US04798897
In 100 ml of ice water was dissolved 10.56 g of 5-isoquinolinesulfonyl chloride hydrochloride, and the pH of the solution was adjusted to 6 with a saturated aqueous sodium hydrogencarbonate solution, followed by extraction with 100 ml of dichloromethane. The dichloromethane layer was added dropwise to a 100 ml of dichloromethane solution containing 8.7 g of N-hexylethanolamine and 6.1 g of triethylamine over 20 minutes while cooling with ice. The mixture was stirred at a temperature of 15° C. to 20° C. for 3 hours, washed with water, and dried with anhydrous magnesium sulfate. Then, thedichloromethane was removed under reduced pressure to obtain an oily residue. The thus obtained oily residue was subjected to purification by silica gel column chromatography (Wacogel C-200, 200 g; solvent: a 5% methanol solution in chloroform) to obtain 5.24 g of N-hexyl-N-(2-hydroxyethyl)-5-isoquinolinesulfonamide.

reactant | 5-isoquinolinesulfonyl chloride hydrochloride | 10.56 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | N-hexyl-N-(2-hydroxyethyl)-5-isoquinolinesulfonamide | 5.24 g | C(CCCCC)N(S(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCO | C17H24N2O3S
